US20010041726A1
20a. Methyl (2Z)-2-hydroxy-4-(4-methylthiophenyl)oxobut-2-enoate
Dimethyloxalate (26 g, 180.7 mmol) was added to a stirred suspension of sodium methoxide (9.75 g, 180.7 mmol) in dry toluene (200 mL) at 0° C. The white suspension was stirred for 15 min at 0° C. A solution of 4′-(methylthio)acetophenone (15 g, 90.4 mmol) in dry toluene (150 mL) was then added dropwise over 15 min giving a yellow suspension which was stirred for 2 hours at room temperature. The thick yellow suspension was transferred to a 2 liter flask and stirred vigorously with 10% HCl (250 mL) and EtOAc (200 mL) to dissolve all the solids present. The organic layer was separated and the aqueous layer was extracted with EtOAc (100 mL). The combined organic extracts were washed with water (250 mL), dried over Na2SO4 and the solvent was evaporated under reduced pressure to give thick brown oil. The brown oil was dissolved in CIHC4 (25 mL) and hexane (125 mL) and left in a freezer at −20° C. for 16 hours to give the title compound (18 g, 79%) as orange color solid. mp 81° C. 1H-NMR (300 MHz, CDCl3) 3 7.83 (d, J=8.6 Hz, 2H), 7.23 (d, J=8.6 Hz, 2H), 6.97 (s, 1H), 3.89 (s, 3H), 2.47 (s, 3H); 13C-NMR (75 MHz, CDCl3); mass spectrum (API-TIS) m/z 253 (MH+)

reactant | Dimethyloxalate | 180.7 mmol, 26 g | COC(C(=O)OC)=O | C4H6O4
reactant | sodium methoxide | 180.7 mmol, 9.75 g | C[O-].[Na+]
reactant | 4′-(methylthio)acetophenone | 90.4 mmol, 15 g | CSC1=CC=C(C=C1)C(C)=O | C9H10OS
reactant | HCl | 250 mL | Cl | ClH
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 125 mL | CCCCCC | C6H14
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Methyl (2Z)-2-hydroxy-4-(4-methylthiophenyl)oxobut-2-enoate | 18 g, 79% | O\C(\C(=O)OC)=C/C(C1=CC=C(C=C1)SC)=O | C12H12O4S
